US04339449
To a solution of benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1-azetidinyl]-2-formamidoacetate (2.70 g.) and 2,6-lutidine (11.4 ml.) in methylene chloride (16 ml.) was added dropwise phosphorus oxychloride (1.12 ml.) at 0° C. After stirring at the same temperature for 4.8 hours, the mixture was diluted with a mixture of benzene and ethyl acetate (120 ml.) (6:4 by volume), and washed successively with a chilled dilute aqueous solution of sodium chloride, a mixture of 10% phosphoric acid (75 ml.) and a saturated aqueous solution of sodium chloride, a dilute aqueous solution of sodium chloride, ice-water and a saturated aqueous solution of sodium chloride. Drying over magnesium sulfate and removal of the solvent left an oil (2.5 g.), which was chromatographed on silica gel (30 g.) with a mixed solvent of benzene and ethyl acetate (5:1 by volume) as an eluent to give an amorphous solid of benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1 -azetidinyl]-2-isocyanoacetate.

reactant | benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1-azetidinyl]-2-formamidoacetate | 2.70 g | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SC(=O)OCC(Cl)(Cl)Cl)C(C(=O)OCC1=CC=CC=C1)NC=O)=O | C24H22Cl3N3O8S
reactant | 2,6-lutidine | 11.4 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | phosphorus oxychloride | 1.12 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 16 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
product | benzyl 2-[3-phenoxyacetamido-4-(2,2,2-trichloroethoxycarbonylthio)-2-oxo-1 -azetidinyl]-2-isocyanoacetate | O(C1=CC=CC=C1)CC(=O)NC1C(N(C1SC(=O)OCC(Cl)(Cl)Cl)C(C(=O)OCC1=CC=CC=C1)[N+]#[C-])=O | C24H20Cl3N3O7S
